US07528136B2
(4-Benzoyl-piperazin-1-yl)-[(2S,4S)-1-benzyl-4-(3,5-bis-trifluoromethyl-benzylamino)-pyrrolidin-2-yl]-methanone
As described for Example 56d, 1-benzyl-4-(3,5-bis-trifluoromethyl-benzylamino)-pyrrolidine-2-carboxylic acid (65 mg, 0.146 mmol) was converted, using phenyl-piperazin-yl-methanone instead of 1-(3-trifluoromethyl-phenyl)-piperazine, to the title compound (10.9 mg, 12.1%) as light yellow oil. MS m/e=619.4 [M+H]+.

reactant | 1-benzyl-4-(3,5-bis-trifluoromethyl-benzylamino)-pyrrolidine-2-carboxylic acid | 0.146 mmol, 65 mg | C(C1=CC=CC=C1)N1C(CC(C1)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=O)O | C21H20F6N2O2
reactant | phenyl-piperazin-yl-methanone | C1(=CC=CC=C1)C(=O)N1CCNCC1 | C11H14N2O
product | (4-Benzoyl-piperazin-1-yl)-[(2S,4S)-1-benzyl-4-(3,5-bis-trifluoromethyl-benzylamino)-pyrrolidin-2-yl]-methanone | 10.9 mg, 12.1% | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C(=O)[C@H]1N(C[C@H](C1)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC1=CC=CC=C1 | C32H32F6N4O2
